US07642264B2
2-Chloro-4-(2-fluoro-4-trifluoromethyl-phenyl)-6-trifluoromethyl-pyrimidine
The title compound was prepared from 4-(2-fluoro-4-trifluoromethyl-phenyl)-6-trifluoromethyl-1H-pyrimidin-2-one (9.84 g, 0.03 mol) and phosphoroxychloride (50 ml) according to the general procedure I. Obtained as a light yellow solid (9.99 g, 96%). MS (ISN) 341.2 [(M−H)−]; mp 47° C.

reactant | 4-(2-fluoro-4-trifluoromethyl-phenyl)-6-trifluoromethyl-1H-pyrimidin-2-one | 0.03 mol, 9.84 g | FC1=C(C=CC(=C1)C(F)(F)F)C1=NC(NC(=C1)C(F)(F)F)=O | C12H5F7N2O
reactant | phosphoroxychloride | 50 ml | O=P(Cl)(Cl)Cl | Cl3OP
product | 2-Chloro-4-(2-fluoro-4-trifluoromethyl-phenyl)-6-trifluoromethyl-pyrimidine | ClC1=NC(=CC(=N1)C1=C(C=C(C=C1)C(F)(F)F)F)C(F)(F)F | C12H4ClF7N2
